US05646265
2'-O-Nonylcytidine
Cytidine (10.1 g, 0.0415 mol), sodium hydride (2.0 g, 1.2 eq), iodononane (9.8 ml, 1.2 eq.) in DMF (100 ml) were reacted as per the procedure of Example 71, Step 1 to yield the 2' and 3' isomers as a sticky foam (11.6 g).

reactant | Cytidine | 0.0415 mol, 10.1 g | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C(=O)N=C(N)C=C1 | C9H13N3O5
reactant | sodium hydride | 2.0 g, 1.2 eq | [H-].[Na+]
reactant | iodononane | 9.8 ml, 1.2 eq. | ICCCCCCCCC | C9H19I
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 2'-O-Nonylcytidine | 11.6 g | C(CCCCCCCC)O[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C(=O)N=C(N)C=C1 | C18H31N3O5
